### PR TITLE
feat(Computability): regular expression nfa equivalence

### PR DESCRIPTION
**Pull request by TpmKranz**
Proofs that (formal language) regular expressions and NFA's describe the same class of languages

- every NFA has a regular expression describing the same language, implemented via state ripping in generalized nondeterministic finite automata
- every regular expression has an NFA describing the same language via Thompson's construction, adapted to not require ε-transitions

Very much based on https://github.com/leanprover-community/mathlib/pull/14250, thus:
Co-authored-by: Russell Emerine <rre0520@gmail.com>

---

- [ ] depends on: #15647
- [ ] depends on: #15649
- [ ] depends on: #15651
- [ ] depends on: #15654

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/GNFA.lean [hunk 1]
```diff
@@ -0,0 +1,383 @@
...
+This file contains the definition of a Generalized Nondeterministic Finite Automaton, a state
+machine which determines whether a string (implemented as a `List` over an arbitrary alphabet) is in
+a regular set by evaluating the string over its net of regular expressions. We show
+that GNFA's are equivalent to `NFA`'s, and that GNFA's are equivalent to smaller GNFA's with a state
+"ripped" out. Through this mechanism, we show that `NFA`'s are equivalent to `RegularExpression`s.
+
+## References
+
+TODO: someone please tell me how to best cite this file?
+* <https://courses.engr.illinois.edu/cs373/sp2013/Lectures/lec07.pdf>
```
Comment (eric-wieser) [inline Mathlib/Computability/GNFA.lean:23]: I guess an entry in the `references.bib` is reasonable; there are probably a few other url-based references there you could copy.

File: Mathlib/Computability/GNFA.lean [hunk 2]
```diff
@@ -0,0 +1,383 @@
...
+
+/-- A `trace` of an internal state and a string of a GNFA represents the possibility of getting to
+the state via transitions that match the elements of some partitioning of the string.
+This can be interpreted as the `Set` of strings that reach a certain inner state;
+i.e. its `Language`.
+-/
+inductive trace (M : GNFA α σ) : σ → Language α
+  | start : ∀ {x} q, x ∈ (M.step none (some q)).matches' → M.trace q x
+  | step : ∀ {x y z} p q,
+    y ∈ M.trace p → z ∈ (M.step (some p) (some q)).matches' → x = y ++ z → M.trace q x
```
Comment (eric-wieser) [inline Mathlib/Computability/GNFA.lean:64]: It would be tempting to write this as
```suggestion
    y ∈ M.trace p → z ∈ (M.step (some p) (some q)).matches' → M.trace q (y ++ z)
```

Comment (TpmKranz) [reply Mathlib/Computability/GNFA.lean:64]: This'll lead to problems with case analysis, for example in line 332, where `[] = y ++ z` cannot be resolved:

```lean
      rcases hyt with ⟨_, step⟩ | @⟨y, z, p, hyt, step⟩
```

```
▶ 332:23-332:56: error:
tactic 'cases' failed, nested error:
dependent elimination failed, failed to solve equation
  [] = y.append z
at case GNFA.trace.step
```

Not even massaging `hyt`'s type into something of the right shape does the trick and I don't know if that would be worth saving a few `rfl`s anyway.

```lean
      rw[← [].append_nil] at hyt
      rcases hyt with ⟨_, step⟩ | @⟨y, z, p, hyt, step⟩
```
(same error)

File: Mathlib/Computability/GNFA.lean (hunk 1 above)
Comment (TpmKranz) [reply Mathlib/Computability/GNFA.lean:23]: This is a remnant of Russell's. I've been wondering about that source since I first saw it, since it conveys pretty basic knowledge, not even bestowing a name upon the RE-NFA trafo, and doesn't seem to inspire any of the ingenuity of Russell's actual implementation or proof. They don't seem to have updated the docstrings from the first draft (there was something about only permitting `Fin`s as state types) and this was probably the initial lecture where they learned about the constructions. I didn't want to just replace it without prior discussion, but I would suggest just replacing it with a textbook reference. The lecture seems to be based on Sipser's Intro to the Theory of Computation, down to the two failed attempts at constructing a Kleene-starred NFA, but it's of course impossible to tell.

**Comment by madvorak** [comment]
Is this the main result?
```
/-- Non-constructively, enumerability of state space and alphabet are not needed for an NFA to
permit the possibility of having a regular expression that matches its language. -/
theorem exists_toRegularExpression [Fintype α] [Fintype σ] (M : NFA α σ) :
    ∃ r : RegularExpression α, M.accepts = r.matches'
```
The statement looks like yes, but the docstring looks line no.

File: Mathlib/Computability/GNFA.lean
Comment (YaelDillies) [inline Mathlib/Computability/GNFA.lean:1]: Could this be a separate PR? Your current PR is *huge*

**Comment by grunweg** [comment]
To add to Yael's suggestion: can the changes in `RegularExpressions.lean` resp. `FinEnum/Options.lean` also be split out? Usually, three smaller PRs get reviewed **much** faster than one huge PR, particularly for this size.

**Comment by TpmKranz** [comment]
Thanks for the suggestions; I was following the workflow for porting mathlib3 content and thought I'd keep it all bundled together. But if it's easier for y'all, I'd be happy to split the different parts of this contribution up! It seems like your preference would be three parts: The RE-to-NFA construction, the FinEnum addition and the NFA-to-RE (i.e. GNFA) stuff, which depends on the FinEnum one.

File: Mathlib/Computability/NFA.lean [hunk 3]
```diff
@@ -1,7 +1,7 @@
 /-
-Copyright (c) 2020 Fox Thomson. All rights reserved.
+Copyright (c) 2020 Fox Thomson, 2022 Russell Emerine, 2024 Tom Kranz. All rights reserved.
```
Comment (grunweg) [inline Mathlib/Computability/NFA.lean:2]: In mathlib, we just keep the year of the first contribution in the copyright header --- please revert this one.

**Comment by grunweg** [comment]
No worries - for porting this, a single PR is easier. But for reviewing, the more reasonable pieces you split this into, the faster the process will (generally) be. I can envision at least four PRs, for
- the FinEnum change
- for NFAs (though 400 lines are also large - *if* there is a sensible split, I would also suggest that)
- for RegularExpressions
- the GNFA changes

My rule of thumb is that 150-300 lines is a good maximum size: sometimes, you have to have larger PRs or splitting makes sense, but if you can, aiming for that size is good.

**Comment by j-loreaux** [comment]
Reviewers have done it already for this PR, but for future reference, when you create PRs on which another depends, it is important to add that to the PR description (as has been done above and for which there are instructions when editing the PR description).

**Comment by TpmKranz** [comment]
I'm sorry for the confusion. This here PR doesn't depend on the ones I split it up into. It is completely superseded by the other PR's, since they also incorporate some improvements that are not present here. I considered this PR dead and didn't think of back-referencing the constituent requests here. Should this maybe be closed?

**Comment by grunweg** [comment]
Thanks for explaining! Closing this PR sounds reasonable then.
